US07615648B2
Borane-tetrahydrofuran complex (1M in THF) (65.4 ml, 65.4 mmol, 3 eq) is added dropwise to a solution of (R)-(−)-N-Boc-nipecotic acid (5 g, 21.8 mmol, 1 eq) in THF (50 ml) and this is stirred at room temperature for 16 hours. The solution is cooled to 0° C. and carefully hydrolysed with 2N aqueous sodium hydroxide (250 ml) the resulting mixture is then heated for 48 hrs. The mixture is cooled to 0° C. and extracted with diethyl ether (3×100 ml). The organic layers are combined, washed with brine (100 ml), dried over magnesium sulphate, filtered and concentrated in vacuo. The residue is purified by flash chromatography, eluting with 50-70% ethyl acetate in iso-hexane to give the tert-butyl (3R)-3-(hydroxymethyl)piperidine-1-carboxylate (4.56 g, 98%). 1H NMR (300 MHz, CDCl3) δH: 4.0-2.7 (6H, br m), 2.17-1.19 (5H, br m) 1.46 (9H, s).

reactant | Borane tetrahydrofuran | 65.4 mmol, 1M, 65.4 ml, 3 eq | B.O1CCCC1
reactant | (R)-(−)-N-Boc-nipecotic acid | 21.8 mmol, 5 g, 1 eq | C(=O)(OC(C)(C)C)N1C[C@H](C(=O)O)CCC1 | C11H19NO4
reactant | sodium hydroxide | 2N, 250 ml | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-(hydroxymethyl)piperidine-1-carboxylate | 4.56 g, 98% | OC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
